US07807673B2
Step A: N-(5-Bromo-2-fluorophenyl)-2,2,2-trifluoroacetamide
To a solution of 4-bromo-1-fluoro-2-nitrobenzene (10 g, 45 mmol) in EtOH (400 mL) was added tin (II) chloride (34 g, 180 mmol) and the reaction was heated to 60° C. After 16 h, the reaction was cooled and neutralized with NaOH(aq). Ethyl acetate was added and the liquid was decanted away from the solid several times. The combined organics were dried over MgSO4 and concentrated to an orange residue. The residue was dissolved in DCM (400 mL). Triethylamine (12.5 mL, 90 mmol) and TFAA (7.5 mL, 54 mmol) were added. After 30 min, the reaction was concentrated directly onto silica gel The crude material was purified by column chromatography and the product was triturated with hexanes to give of the desired product (8.04 g, 62%). 1H NMR (400 MHz, d6-DMSO) δ 11.39 (s, 1H), 7.76-7.73 (m, 1H), 7.59-7.55 (m, 1H), 7.38-7.33 (m, 1H) ppm.

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 45 mmol, 10 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | tin (II) chloride | 180 mmol, 34 g | [Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
reactant | Triethylamine | 90 mmol, 12.5 mL | C(C)N(CC)CC | C6H15N
reactant | TFAA | 54 mmol, 7.5 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | EtOH | 400 mL | CCO | C2H6O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-Bromo-2-fluorophenyl)-2,2,2-trifluoroacetamide | 8.04 g, 62% | BrC=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C8H4BrF4NO
